US08486952B2
2-chloro-N,N-dimethyl-7-phenyl-5H-cyclopenta[d]pyrimidin-4-amine
To a solution of 2-chloro-4-(dimethylamino)-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol (85 mg) in i-PrOH (5 mL) was added HCl in ether (1M solution), and the reaction mixture was heated at 80° C. from 3 h. The solution was cloudy and turned to clear yellow solution by the end of the reaction. The solvents were removed, and the reaction mixture was worked up with EtOAc and saturated NaHCO3 to give the title compound as a brownish solid (50 mg). LC-MS (M−H2O+H)+=272.07.

reactant | 2-chloro-4-(dimethylamino)-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol | 85 mg | ClC=1N=C(C2=C(N1)C(CC2)(O)C2=CC=CC=C2)N(C)C | C15H16ClN3O
reactant | HCl | Cl | ClH
solvent | i-PrOH | 5 mL | CC(C)O | C3H8O
solvent | ether | 1M | CCOCC | C4H10O
product | 2-chloro-N,N-dimethyl-7-phenyl-5H-cyclopenta[d]pyrimidin-4-amine | 50 mg | ClC=1N=C(C2=C(N1)C(=CC2)C2=CC=CC=C2)N(C)C | C15H14ClN3
